US07144993B2
4-Methyl-6-chloro-7-aminoquinolone (PPTS)
28.6 g of 4-chloro-1,3-phenylendiamine are suspended at 22° C. in 400 ml of toluene. 17.6 g of diketene in 100 ml of toluene are added to the grey suspension in the course of 30 minutes at 25±2° C., the suspension briefly passing into solution before the mono-diketenisation product is precipitated in the form of a beige solid. Stirring is then carried out for 6 h at 22° C. Then 5 g of pyridinium para-toluenesulfonate (PPTS) are added and the mixture is boiled under reflux for 16 h. The yellow suspension is cooled to 30° C., with stirring, and then at 30° C. 30 ml of 1 N NaOH are added. A further 100 ml of water are then added. The crude product is filtered at 22° C., washed neutral with H2O and dried overnight at 60° C. in vacuo. 38.5 g (yield: 92%, isomeric ratio of 4-methyl-6-chloro-7-aminoquinolone to 4-methyl-5-amino-6-chloroquinolone>95:5) of a beige solid having a melting point of 350° C. are obtained.

reactant | 4-chloro-1,3-phenylendiamine | 28.6 g | ClC1=C(C=C(C=C1)N)N | C6H7ClN2
reactant | diketene | 17.6 g | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-6-chloro-7-aminoquinolone | yield: 92% | CC1=CC(NC2=CC(=C(C=C12)Cl)N)=O | C10H9ClN2O
